US05665271
Preparation of trans-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-propyl-1-silacyclohexane
50 ml (0.18 moles) of a tetrahydrofuran (hereinafter referred to simply as THF) solution of 2.5M of propylmagnesium chloride was dropped in a mixed solution of 37.4 g (0.1 mol) of 1-chloro-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-silacyclohexane and 300 ml of THF. The resultant product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was subjected to ordinary aftertreatments such as removal of the solvent and salts, followed by isolation through chromatography to obtain 30.2 g (yield: 79%) of the intended trans isomer product.

reactant | propylmagnesium chloride | 2.5M | C(CC)[Mg]Cl
reactant | 1-chloro-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-silacyclohexane | 0.1 mol, 37.4 g | Cl[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)CCCCC1=CC=C(C=C1)C#N | C22H32ClNSi
solvent | THF | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.18 moles, 50 ml | O1CCCC1 | C4H8O
product | trans-4-(trans-4-(4-(4-cyanophenyl)butyl)cyclohexyl)-1-propyl-1-silacyclohexane | yield: 79% | C(#N)C1=CC=C(C=C1)CCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCC | C25H39NSi
